US05726191
6 g of 3-hexyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl-carboxylic acid were dissolved in 180 ml of methylene chloride. After the addition of a solution of 4.8 g of benzyl 6-hydroxy-nicotinate in 160 ml of methylene chloride and of 2.3 g of 4-dimethylaminopyridine, the solution was cooled to 0° C. and treated with 4.4 g of dicyclohexylcarbodiimide. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 2 hours, thereafter poured into ice-cold aqueous ammonium chloride solution, extracted several times with ether, washed with water, dried over sodium sulfate and evaporated. The crude product, for the most part crystalline, was filtered over silica gel (eluent hexane/ethyl acetate=9:1) and recrystallized from hexane. After repeated crystallization of the mother liquor there were obtained all together 5.7 g of benzyl 6-(3-hexyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl-carbonyloxy)-nicotinate in colorless crystals, m.p. 94°-95° C.

reactant | 3-hexyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl-carboxylic acid | 6 g | C(CCCCC)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=O)O | C21H32O2
reactant | benzyl 6-hydroxy-nicotinate | 4.8 g | OC1=NC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C13H11NO3
reactant | dicyclohexylcarbodiimide | 4.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.3 g | CN(C1=CC=NC=C1)C | C7H10N2
product | benzyl 6-(3-hexyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl-carbonyloxy)-nicotinate | 5.7 g | C(CCCCC)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=O)OC1=NC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C34H41NO4
